US05138069
Preparation of 2-n-Butyl-1-(4-carboxybenzyl)-4-chloro-5-(methoxymethyl)imidazole
2-n-Butyl-1-(4-carbomethoxybenzyl)-4-chloro-5-(methoxymethyl)imidazole (15.2 g, 43.3 mmol, 1 eq), 0.5 N KOH in methanol (130 mL, 65.0 mmol, 1.5 eq), water (10 mL) and methanol (50 mL) were mixed and refluxed for 4 hours. The solvent was removed in vacuo and the residue dissolved in water (300 mL). The pH was adjusted to 4 with conc. HCl and this aqueous mixture extracted with ethyl acetate (3×300 mL). The organic layers were combined, dried (MgSO4), the solved removed in vacuo and the crude residue recrystallized from hexane/butyl chloride to yield 9.6 g of white solid; m.p. 126.5°-127.5°. NMR (200 MHz, DMSO-d6) δ 12.95 (bs, 1H); 7.93 (d, 2H, J=9 Hz); 7.16 (d, 2H, J=9 Hz); 5.30 (s, 2H); 4.31 (s, 2H); 3.19 (s, 3H); 2.50 (t, 2H, J=7 Hz); 1.49 (t of t, 2H, J=7,7 Hz); 1.24 (t of q, 2H, J=7,7 Hz); 0.80 (t, 3H, J=7 Hz). Anal. Calcd. for C17H21ClN2O3 : C, 60.62; H, 6.29; N, 8.32. Found: C, 60.89; H, 6.10; N, 8.03.

reactant | 2-n-Butyl-1-(4-carbomethoxybenzyl)-4-chloro-5-(methoxymethyl)imidazole | 43.3 mmol, 15.2 g, 1 eq | C(CCC)C=1N(C(=C(N1)Cl)COC)CC1=CC=C(C=C1)C(=O)OC | C18H23ClN2O3
reactant | KOH | 0.5 N | [OH-].[K+]
solvent | water | 10 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
solvent | methanol | 65.0 mmol, 130 mL, 1.5 eq | CO | CH4O
product | 2-n-Butyl-1-(4-carboxybenzyl)-4-chloro-5-(methoxymethyl)imidazole | 9.6 g | C(CCC)C=1N(C(=C(N1)Cl)COC)CC1=CC=C(C=C1)C(=O)O | C17H21ClN2O3
